US03972888
1 g of 4-methyl-5-propargyl-6-phenyl-2-pyrone, 1.5 g of hydroxylamine hydrochloride and 3 g of 2-amino-4-methyl-pyridine were heated for 9 hours to 80° C. After the usual working up, there were obtained 0.82 g (77 %) of 1-hydroxy-4-methyl-5-propargyl-6-phenyl-2-pyridone melting at 200° C (Calc.: 5.9 % N, found: 5.8 % N).

reactant | 4-methyl-5-propargyl-6-phenyl-2-pyrone | 1 g | CC1=CC(OC(=C1CC#C)C1=CC=CC=C1)=O | C15H12O2
reactant | hydroxylamine hydrochloride | 1.5 g | Cl.NO
reactant | 2-amino-4-methyl-pyridine | 3 g | NC1=NC=CC(=C1)C | C6H8N2
product | 1-hydroxy-4-methyl-5-propargyl-6-phenyl-2-pyridone | 0.82 g | ON1C(C=C(C(=C1C1=CC=CC=C1)CC#C)C)=O | C15H13NO2
